US07619086B2
Step 2: 5-(Dimethylaminocarbonyl)-2-(4-fluorobenzyl)-8-hydroxy-6-methyl-2,3,4,4a,5,6-hexahydro-2,6-naphthyridine-1,7-dione
To a solution of 2-(4-fluorobenzyl)-8-hydroxy-6-methyl-2,3,4,4a,5,6-hexahydro-2,6-naphthyridine-1,7-dione-5-carboxylic acid (0.012 g, 0.0.034 mol) in DMF (0.5 mL) was added EDC (0.007 g, 0.038 mmol), dimethylamine hydrochloride (0.003 g, 0.038 mmol) and HOBT (0.006 g, 0.038 mmol). After stirring at room temperature, triethylamine (0.008 g, 0.076 mmol) was added. After 2 hours, the reaction mixture was concentrated under vacuum. The residual material was partitioned between CHCl3 and water. The organic extract was dried with Na2SO4, filtered, and concentrated under vacuum. The residue was purified using reverse phase HPLC on a C18 stationary phase eluting with 15%-85% acetonitrile (0.1% TFA) in H2O (0.1% TFA) to provide the title compound. 1H NMR (400 MHz, CDCl3) δ 7.25 (m, 2H), 7.04 (t, J=8.6 Hz, 2H), 4.75 (m, 1H), 4.44 (m, 1H), 3.95 (d, J=12.3 Hz, 1H), 3.29 (m, 4H), 3.18 (s, 3H), 1.81 (m, 1H), 1.65 (s, 6H), 1.49 (m, 1H) ppm. ES MS M+1=376.

reactant | 2-(4-fluorobenzyl)-8-hydroxy-6-methyl-2,3,4,4a,5,6-hexahydro-2,6-naphthyridine-1,7-dione-5-carboxylic acid | 0.012 g | FC1=CC=C(CN2C(C3=C(C(N(C(C3CC2)C(=O)O)C)=O)O)=O)C=C1 | C17H17FN2O5
reactant | EDC | 0.038 mmol, 0.007 g
reactant | dimethylamine hydrochloride | 0.038 mmol, 0.003 g | Cl.CNC
reactant | HOBT | 0.038 mmol, 0.006 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 0.076 mmol, 0.008 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 5-(Dimethylaminocarbonyl)-2-(4-fluorobenzyl)-8-hydroxy-6-methyl-2,3,4,4a,5,6-hexahydro-2,6-naphthyridine-1,7-dione | CN(C(=O)C1C2CCN(C(C2=C(C(N1C)=O)O)=O)CC1=CC=C(C=C1)F)C | C19H22FN3O4
